US09085575B2
12.05 g (53.4 mmol) of tin chloride dihydrate and 14 ml of concentrated hydrochloric acid are added to 4 g (8.9 mmol) of ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate dissolved in 160 ml of ethanol. The reaction medium is carried at 65° C. for 4 hours. The precipitate obtained is filtered, rinsed with isopropanol and then dried to yield 2.78 g (80%) of 6-hydroxy-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]naphthyridine-1-carbonitrile in the form of a yellow solid.

reactant | tin chloride dihydrate | 53.4 mmol, 12.05 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate | 8.9 mmol, 4 g | C(#N)C1=C(C(=C(NC1=S)C1=CC=C(C=C1)OC)C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-] | C22H17N3O5S
reactant | ethanol | 160 ml | C(C)O | C2H6O
product | 6-hydroxy-4-(4-methoxyphenyl)-2-(methylthio)-5-oxo-5,6-dihydrobenzo[c][2,7]naphthyridine-1-carbonitrile | 2.78 g, 80% | ON1C(C=2C(=NC(=C(C2C2=C1C=CC=C2)C#N)SC)C2=CC=C(C=C2)OC)=O | C21H15N3O3S
